US06335459B1
Tetrakis(triphenylphosphine)palladium(0) (0.66 g, 0.57 mmol) and propargyl alcohol (1.34 mL, 22.97 mmol) were added to a solution of (3-bromophenoxy) acetic acid tert-butyl ester (3.3 g, 11.49 mmol) in pyrrolidine (35 mL) under an argon atmosphere at room temperature. The mixture was heated at 75-80° C. for 2.5 hours. Excess saturated ammonium chloride was added and the mixture was extracted with diethyl ether. The extract was washed with brine, dried over sodium sulfate, and concentrated to dryness. Purification by flash chromatography, eluting with hexane/ethyl acetate, gave [3-(3-hydroxyprop-1-ynyl)phenoxy]acetic acid tert-butyl ester as a pale yellow oil (1.93 g, 64%).

reactant | propargyl alcohol | 22.97 mmol, 1.34 mL | C(C#C)O | C3H4O
reactant | (3-bromophenoxy) acetic acid tert-butyl ester | 11.49 mmol, 3.3 g | C(C)(C)(C)OC(COC1=CC(=CC=C1)Br)=O | C12H15BrO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | pyrrolidine | 35 mL | N1CCCC1 | C4H9N
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.57 mmol, 0.66 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | [3-(3-hydroxyprop-1-ynyl)phenoxy]acetic acid tert-butyl ester | 1.93 g, 64% | C(C)(C)(C)OC(COC1=CC(=CC=C1)C#CCO)=O | C15H18O4
